US06284863B1
Production of poly[p-hydroxystyrene/p-{1-(N-acetyl-N-methylamino)ethoxy}styrene]
The procedure in Example 1 was repeated except that 4.95 parts of N-vinyl-N-methylacetamide were used in place of N-vinyl-2-pyrrolidone to give a resin solution. The solid content of the resin solution measured by weight-loss on heating was 26.34% by weight. A broad peak at 2.7 ppm was confirmed by 1H-NMR [270 MHz, in (dimethylsulfoxide)-d6] and assigned to the N-methyl proton. From the ratio of integrated area for this methyl proton and that for the aromatic protons, it was confirmed that the resin was a copolymer constituted of p-hydroxystyrene unit and p-[1-(N-acetyl-N-methylamino)ethoxy]styrene in a ratio of 94:6. The resin was referred to as Resin R2.

reactant | N-vinyl-N-methylacetamide | C(=C)N(C(C)=O)C | C5H9NO
reactant | N-vinyl-2-pyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | p-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | p-[1-(N-acetyl-N-methylamino)ethoxy]styrene | C(C)(=O)N(C)C(C)OC1=CC=C(C=C)C=C1 | C13H17NO2
product | p-hydroxystyrene p-{1-(N-acetyl-N-methylamino)ethoxy}styrene | OC1=CC=C(C=C)C=C1.C(C)(=O)N(C)C(C)OC1=CC=C(C=C)C=C1 | InChI=1S/C13H17NO2.C8H8O/c1-5-12-6-8-13(9-7-12)16-11(3)14(4)10(2)15;1-2-7-3-5-8(9)6-4-7/h5-9,11H,1H2,2-4H3;2-6,9H,1H2
